US08076482B2
Preparation of intermediate 2-(4-chloro-2-formyl-phenoxy)-2-methyl-propionic acid methyl ester
A mixture of 5-chloro-2-hydroxy-benzaldehyde (7 g, 45 mmol), 2-bromo-2-methyl-propionic acid ethyl ester (10.4 g, 58 mmol), K2CO3 (18.6 g, 135 mmol) and KI (0.97 g, 5.8 mmol) in DMF (20 mL) was heated at 110° C. for 3 h. Then the mixture was filtered and the filtrate was concentrated. The residue was used into next step reaction without further purification (7 g).

reactant | 5-chloro-2-hydroxy-benzaldehyde | 45 mmol, 7 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | 2-bromo-2-methyl-propionic acid ethyl ester | 58 mmol, 10.4 g | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
reactant | K2CO3 | 135 mmol, 18.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(4-chloro-2-formyl-phenoxy)-2-methyl-propionic acid methyl ester | COC(C(C)(C)OC1=C(C=C(C=C1)Cl)C=O)=O | C12H13ClO4
